US08048904B2
4-(1-Hydroxy-1-methylethyl)-2-Propyl-1H-imidazole-5-carboxylic acid ethyl ester (100 g), N-(triphenylmethyl)-5-(4′-bromomethylbiphenyl-2-yl)tetrazole (250 g), potassium carbonate (170 g) & tetra butyl ammonium bromide (15 g) in acetone (2.5 L) were refluxed for 15 hours. The reaction mass was cooled & filtered to remove the salts. Salts were washed with acetone (300 ml). Acetone from combined filtrate was distilled completely & residue was refluxed with acetonitrile (500 ml). The reaction mass was cooled, filtered & solid after filtration was dissolved in isopropyl alcohol (1500 ml). Separately prepared solution of potassium hydroxide (180 g) in IPA (2.0 L) was added to above solution at room temperature. Reaction was stirred for 3 hrs at 30-40° C. Isopropyl alcohol was distilled under reduced pressure. Brine (1.0 L) & ethyl acetate (2.0 L) was added to the residue. After layer separation aqueous layer was extracted with ethyl acetate (3×1000 ml). Combined ethyl acetate layer was washed with sodium bicarbonate solution (2×2.0 L) & dried (Na2SO4). Ethyl acetate was distilled completely under reduced pressure. Acetone (4.0 L) was added to the residue & heated to reflux; the solution obtained was added to suspension of potassium carbonate (50 g), potassium iodide (15 g) & 4-chloromethyl-5-methyl-1,3-dioxol-2-one (75 g) in acetone (1500 ml) at reflux temperature. Reaction, mass was refluxed for 2-6 hrs. After competition of reaction, the reaction mass was filtered & the acetone was distilled from combined mother liquor. The residue obtained was dissolved in toluene (2.5 L) toluene layer was washed with brine (3×750 ml) & dried (Na2SO4). Toluene layer was filtered & cooled to 0 to −20° C. Conc. HCl (1.35 L) was added slowly to above reaction mass at −5 to −15° C. Stirred for 1 hr. The two layers were separated & ethyl acetate (3.0 L) was added to aqueous layer. The pH of combined layers was adjusted to 5.0-6.5 by adding potassium carbonate solution. Both the layers were separated (Store the ethyl acetate layer-containing compound) & aqueous layer was extracted with ethyl acetate (3×2.0 L). Combined organic layers were washed with brine. Ethyl acetate was distilled from organic layer containing compound under reduced pressure. The residue was dissolved in acetone (2.5 to 4 Lt) at reflux temperature. The solution was stirred with carbon & filtered, followed by partial distillation of acetone. The reaction mass was cooled slowly to 0-5° C. Filtered, washed with acetone (2×200 ml) & dried to get Olmesartan

reactant | 4-(1-Hydroxy-1-methylethyl)-2-Propyl-1H-imidazole-5-carboxylic acid ethyl ester | 100 g | C(C)OC(=O)C1=C(N=C(N1)CCC)C(C)(C)O | C12H20N2O3
reactant | N-(triphenylmethyl)-5-(4′-bromomethylbiphenyl-2-yl)tetrazole | 250 g | C1(=CC=CC=C1)C(N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | potassium carbonate | 170 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 15 g | [I-].[K+]
reactant | 4-chloromethyl-5-methyl-1,3-dioxol-2-one | 75 g | ClCC=1OC(OC1C)=O | C5H5ClO3
catalyst | tetra butyl ammonium bromide | 15 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | 2.5 L | CC(=O)C | C3H6O
solvent | acetone | 1500 ml | CC(=O)C | C3H6O
solvent | toluene | 2.5 L | C1(=CC=CC=C1)C | C7H8
product | Olmesartan | CCCC1=NC(=C(N1CC=2C=CC(=CC2)C=3C=CC=CC3C=4NN=NN4)C(=O)O)C(C)(C)O | C24H26N6O3
